US05238962
2.6 ml (0.02 mol) of 4-chlorobenzoyl chloride are added dropwise at 0° to a solution of 1.2 ml (0.02 mol) of ethanolamine and 3 ml (about 0.02 mol) of triethylamine in 30 ml of methylene chloride. The mixture is then poured into dilute hydrochloric acid and extracted twice with methylene chloride. The methylene chloride extracts are dried over magnesium sulfate and concentrated. After purification on silica gel using chloroform and chloroform/methanol 9:1) as the eluting agent, there are obtained 3.1 g of N-(2-hydroxyethyl)-4-chlorobenzamide.

reactant | 4-chlorobenzoyl chloride | 0.02 mol, 2.6 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethanolamine | 0.02 mol, 1.2 ml | C(O)CN | C2H7NO
reactant | triethylamine | about 0.02 mol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-4-chlorobenzamide | 3.1 g | OCCNC(C1=CC=C(C=C1)Cl)=O | C9H10ClNO2
